US06962914B2
To a cold (0° C.) solution of 4-chloro-2-picoline (5.0 g, 39 mmol) and ethyl 4-fluorobenzoate (6.6 g, 39 mmol) in tetrahydrofuran (100 mL) was added lithium bis(trimethylsilyl)amide (80 mL, 1.0 M in tetrahydrofuran, 80 mmol) dropwise via a pressure equalizing funnel over 30 minutes. Upon complete addition, the cold bath was removed and the resulting solution was stirred at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure and methanol was added to the reaction, resulting in the formation of a white precipitate. The precipitate was collected by filtration and dried to give 2-(4-chloro-2-pyridinyl)-1-(4-fluorophenyl)ethanone (9.6 g, 99%) as a white solid. 1H NMR (DMSO-d6): δ 7.90 (m, 3H), 7.11 (t, 2H), 6.56 (s, 1H), 5.67 (s, 1H), 4.14 (m, 2H); 19F NMR (DMSO-d6): δ−115.67; MS m/z 250 (M+1).

reactant | 4-chloro-2-picoline | 39 mmol, 5.0 g | ClC1=CC(=NC=C1)C | C6H6ClN
reactant | ethyl 4-fluorobenzoate | 39 mmol, 6.6 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | lithium bis(trimethylsilyl)amide | 80 mmol, 1.0 M, 80 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(4-chloro-2-pyridinyl)-1-(4-fluorophenyl)ethanone | 9.6 g, 99% | ClC1=CC(=NC=C1)CC(=O)C1=CC=C(C=C1)F | C13H9ClFNO
